US05571809
6,11-Dihydro-11-(2-hydroxyethyl)-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one
Using a procedure analogous to that described in Example 2, 22.52 g (0.1 mol) of 6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one were convened to 6,11-dihydro-6-methyl-11-[2-[(2-tetrahydropyranyl)oxy]ethyl]-5H-pyrido-[2,3-b][1,5]benzodiazepin-5-one by reaction with 21.8 g (0.132 mol) of 1-chloro-2-[(2-tetrahydropyranyl)-oxy]-ethane. The raw material thus obtained was dissolved in a mixture of 500 ml ethanol and 100 ml of concentrated aqueous hydrochloric acid. After having been refluxed for two hours, the reaction mixture was evaporated in vacuo. The residue was triturated with ethanol, the precipitated crystals were faltered off and the solvent was removed from the filtrate by distillation in vacuo. The residue was purified by column chromatography on silica gel (0.2-0.5 mm) using chloroform/ethylacetate/methanol 5/5/1 (v/v/v) as an eluent. Colorless crystals of m.p. 133°-134° C. (after recrystallization from xylene) were obtained in a yield of 9.0 g (33% of theory).

reactant | 6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 0.1 mol, 22.52 g | CN1C(C2=C(NC3=C1C=CC=C3)N=CC=C2)=O | C13H11N3O
reactant | 6,11-dihydro-6-methyl-11-[2-[(2-tetrahydropyranyl)oxy]ethyl]-5H-pyrido-[2,3-b][1,5]benzodiazepin-5-one | CN1C(C2=C(N(C3=C1C=CC=C3)CCOC3OCCCC3)N=CC=C2)=O | C20H23N3O3
reactant | 1-chloro-2-[(2-tetrahydropyranyl)-oxy]-ethane | 0.132 mol, 21.8 g | ClCCOC1OCCCC1 | C7H13ClO2
product | 6,11-Dihydro-11-(2-hydroxyethyl)-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | OCCN1C2=C(C(N(C3=C1C=CC=C3)C)=O)C=CC=N2 | C15H15N3O2
